US07030128B2
Benzyl chloride (460 μl, 4.0 mmol) was added to a stirred suspension of 4-chloro-2-(pyridin-4-yl)pyrimidine (prepared according to J. Med. Chem., 1982, 25(7), 837-842) (383 mg, 2.00 mmol) in MeCN (10 ml) and the mixture was heated at reflux for 30 h and then concentrated under reduced pressure. EtOH (5 ml) was then added, followed by NaBH4 (151 mg, 4.0 mmol), and the mixture stirred at room temperature for 30 min. Water (10 ml) and EtOAc (70 ml) were added, separated and the organics washed with H2O (20 ml), brine (20 ml) and concentrated under reduced pressure. The residue was purified by column chromatography on silica using 3% MeOH/CH2Cl2 as eluent to yield 2-(1-benzyl-1,2,3,6-tetrahydropyridin-4-yl)-4-chloropyrimidine (325 mg, 57%): 1H NMR (360 MHz, CDCl3) δ 8.52 (1H, d, J 5.3), 7.40-7.23 (6H, m), 7.11 (1H, d, J 5.3), 3.66 (2H, s), 3.30-3.20 (2H, m), 2.80-2.63 (4H, m); m/z (ES+) 286, 288 (1:1, M+H+).

reactant | Benzyl chloride | 4.0 mmol, 460 μl | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 4-chloro-2-(pyridin-4-yl)pyrimidine | 2.00 mmol, 383 mg | ClC1=NC(=NC=C1)C1=CC=NC=C1 | C9H6ClN3
reactant | NaBH4 | 4.0 mmol, 151 mg | [BH4-].[Na+]
reactant | Water | 10 ml | O | H2O
solvent | MeCN | 10 ml | CC#N | C2H3N
solvent | EtOAc | 70 ml | CCOC(=O)C | C4H8O2
product | 2-(1-benzyl-1,2,3,6-tetrahydropyridin-4-yl)-4-chloropyrimidine | 325 mg, 57% | C(C1=CC=CC=C1)N1CCC(=CC1)C1=NC=CC(=N1)Cl | C16H16ClN3
